US06140503
A solution of n-BuLi (2.1 mL, 3.36 mmol, 1.6 M in hexane) was added to a solution of (4-bromophenylethynyl)trimethylsilane (0.69 mg, 2.74 mmol) in 50 mL of Et2O prechilled to -78° C. The solution was then stirred at -30° C. for 15 minutes. The solution was warmed to room temperature, stirred for 1 hour, and cooled to -30° C. A THF solution (20 mL) of 4,4'-bis(trimethylsilylethynyl)benzophenone (0.83 g, 2.19 nmol) prechilled to -30° C. was added slowly and the resulting mixture was stirred for 15 minutes. The solution was warmed to 0° C. and stirred for 2 hours. After addition of 1 mL of H2O the solution was pumped dry. The residue was chromatographed using CH2Cl2 /hexane (1:5 to 2:1) as eluent to afford tri(4-(trimethylsilylethynyl)phenyl)methanol as a colorless powder in 77% yield (0.92 q). 1H NMR (300 MHz, CDCL3, 25° C., TMS): 0.22 (s, 27 H, CH3), 2.72 (s, 1 h, OH), 7.13 (d, J=8.4 Hz, 6 H, C6H4), 7.38 (d, 6 H, C6H4). To a mixture of tri (4-(trimethylsilylethynyl)phenyl)methanol (0.92 g, 1.68 mmol) and KOH (0.28 g, 5.0 mmol) was added 50 mL of MeOH and the solution was stirred at room temperature for 3 hours. The solution was then extracted with Et2O solution was pumped dry and the residue was chromatographed using EtOAc/hexane (1:50 to 1:5) as eluent to afford tri(4-ethynylphenyl)methanol as a colorless powder in 84% yield (0.47 g). Anal. Calcd for C34H40Si3O: C 74.39, H 7.34. Found: C 74.03, H 7.28. 1H NMR (300 MHz, CDCl3, 25° C., TMS) : 2.73 (s, 1 H, OH), 3.06 (s, 3 H, ≡CH), 7.19 (d, J=8.2 Hz, 6 H, C6H4), 7.43 (d, 6 H, C6H4) ; IR (KBr, cm-1): 1018 (m, C--O), 2107 (w, C≡C); 3554 (m, O--H).

reactant | tri (4-(trimethylsilylethynyl)phenyl)methanol | 1.68 mmol, 0.92 g | C[Si](C)(C)C#CC1=CC=C(C=C1)C(O)(C1=CC=C(C=C1)C#C[Si](C)(C)C)C1=CC=C(C=C1)C#C[Si](C)(C)C | C34H40OSi3
reactant | KOH | 5.0 mmol, 0.28 g | [OH-].[K+]
solvent | MeOH | 50 mL | CO | CH4O
product | tri(4-ethynylphenyl)methanol | 84% yield | C(#C)C1=CC=C(C=C1)C(O)(C1=CC=C(C=C1)C#C)C1=CC=C(C=C1)C#C | C25H16O
